US07553840B2
In a microwave vial, 4-chloro-6-{1-[2-(5-dimethylaminomethyl-furan-2-yl)-phenyl]2,2,2-trifluoro-ethoxy}-pyrimidin-2-ylamine (37 mg, 0.087 mmol), 4-borono-L-phenylalanine (22 mg, 0.10 mmol), 1 ml of actonitrile and 0.7 ml of water were mixed. Then, 0.3 ml of 1N aqueous sodium carbonate was added, followed by 5 mole percent of dichlorobis(triphenylphosphine)-palladium(II). The reaction vessel was sealed and heated at 150° C. for 5 minutes with microwave irradiation. After cooling, the reaction mixture was evaporated to dryness. The residue was dissolved in 2.5 ml of methanol, and then was purified by Prep-LC to give 16 mg of (S)-2-amino-3-[4-{2-amino-6-{1-[2-(5-dimethylaminomethyl-furan-2-yl)-phenyl]-2,2,2-trifluoro-ethoxy}-pyrimidin-4-yl)-phenyl]-propionic acid. 1H NMR (400 MHz, CD3OD) δ (ppm) 7.88 (d, J=8.4 Hz, 2H), 7.71 (d, J=7.6 Hz, 1H), 7.62 (d, J=7.6 Hz, 1H), 7.42 (m, 2H), 7.40 (d, J=1.6 Hz, 2H), 7.34 (d, J=8.4 Hz, 1H), 6.89 (q, J=3.6 Hz, 2H), 6.66 (s, 1H), 4.54 (s, 2H), 4.20 (q, J=6 Hz, 1H), 3.3 (m, 1H), 3.14 (m, 1H), 2.84 (s, 6H).

reactant | 4-chloro-6-{1-[2-(5-dimethylaminomethyl-furan-2-yl)-phenyl]2,2,2-trifluoro-ethoxy}-pyrimidin-2-ylamine | 0.087 mmol, 37 mg | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)C=1OC(=CC1)CN(C)C)N | C19H18ClF3N4O2
reactant | 4-borono-L-phenylalanine | 0.10 mmol, 22 mg | B(O)(O)C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H12BNO4
reactant | actonitrile | 1 ml | C(C)#N | C2H3N
reactant | sodium carbonate | 1N, 0.3 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.7 ml | O | H2O
product | (S)-2-amino-3-[4-{2-amino-6-{1-[2-(5-dimethylaminomethyl-furan-2-yl)-phenyl]-2,2,2-trifluoro-ethoxy}-pyrimidin-4-yl)-phenyl]-propionic acid | 16 mg | N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC(=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)C=1OC(=CC1)CN(C)C)N | C28H28F3N5O4
